US08076125B2
(vi) 2-nitrobenzyl 11-bromoundecanoate
One equivalent of 2-nitrobenzyl alcohol (1.91 g, 12.49 mmol) was combined with one equivalent of 11-bromoundecanoic acid (3.31 g, 12.49 mmol), 0.1 equivalents DMAP (0.153 g, 1.25 mmol) and dissolved in 100 mL CH2Cl2. To this mixture a solution of DCC (2.58 g, 12.49 mmol) in 50 mL CH2Cl2 was slowly added while stirring. Upon addition a yellow-brown precipitate formed after a few minutes. The mixture was stirred at room temperature overnight. The precipitate was removed by vacuum filtration and the solvent was removed by rotovap. The product was purified using silica gel column chromatography with CH2Cl2/MeOH (v/v 50:1) as eluent. The product was dried over Na2SO4, the solvent removed by rotovap, and dried under vacuum, producing a white solid. Yield: 4.37 g (87.4%). 1H-NMR (CDCl3) δ (ppm): 8.1 (d, 1H, Ar), 7.6 (t, 1H, Ar), 7.5 (d, 1H, Ar), 7.4 (t, 1H, Ar), 5.5 (s, 2H, O—CH2), 3.4 (t, 2H, CH2—Br), 2.4 (t, 2H, CH2—C═O), 1.8 (m, 2H, CH2), 1.6 (m, 2H, CH2), 1.4 (m, 2H, CH2), 1.3 (m, 10H, CH2). 13C-NMR (CDCl3) δ (ppm): 173.5, 147.9, 134.1, 132.7, 129.5, 129.2, 125.5, 63.2, 34.6, 34.5, 33.2, 29.7, 29.6, 29.5, 29.4, 29.1, 28.5, 25.3.

reactant | 2-nitrobenzyl alcohol | 12.49 mmol, 1.91 g, One equivalent | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | 11-bromoundecanoic acid | 12.49 mmol, 3.31 g, one equivalent | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | DCC | 12.49 mmol, 2.58 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 1.25 mmol, 0.153 g, 0.1 equivalents | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-nitrobenzyl 11-bromoundecanoate | BrCCCCCCCCCCC(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C18H26BrNO4
